US04659706
Following the procedure of Example 4, 3-acetyl-7-methoxy-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine is treated with hydrochloric acid to give 7-methoxy-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrochloride which is treated with 48% hydrobromic acid to give 7-hydroxy-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 3-acetyl-7-methoxy-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2S(=O)(=O)C)OC | C14H19NO4S
reactant | hydrochloric acid | Cl | ClH
product | 7-methoxy-6-methylsulfonyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrochloride | Cl.COC1=C(C2=C(CCNCC2)C=C1)S(=O)(=O)C | InChI=1S/C12H17NO3S.ClH/c1-16-11-4-3-9-5-7-13-8-6-10(9)12(11)17(2,14)15;/h3-4,13H,5-8H2,1-2H3;1H
